US07745452B2
To a solution of tert-butyl [2-(4-bromobenzoyl)-4-chlorophenyl]carbamate (10 g, 25 mmol) in MeOH (50 mL) at 25° C. was added 2 M HCl-MeOH (100 ml), and the reaction mixture stirred for 4 h. The organic layer was evaporated, then the residue was partitioned between CH2Cl2 (300 ml) and water (200 ml). The organic layer was washed with 10% Na2CO3 (to pH=9) and brine, dried over Na2SO4 and evaporated to give 7.5 g (98% yield) (2-amino-5-chlorophenyl)(4-bromophenyl)methanone. To a solution of (2-amino-5-chlorophenyl)(4-bromophenyl)methanone (13 g, 42 mmol) in 500 ml CH2Cl2 was added solid carbonyldiimidazole (15.7 g, 96 mmol) portionwise. The resulting yellow solution was allowed to stir at 40° C. for 16 hrs, concentrated to give a yellow foam. The foam was treated with 30 ml of ether and 20 ml of water with vigorous stirring resulting in a solid precipitate. After filtration, the cake was recrystallized from CH2Cl2/Ether (1:5) to give N-[4-chloro-2-(4-bromobenzoyl)phenyl]-1H-imidazole-1-carboxamide as a yellow solid. 1HNMR: (400 MHz, DMSO-d6) δ 11.05 (s, 1H), 7.69 (d, J=8.4 Hz, 2H), 7.55 (dd, J=8.4, 1.6 Hz, 1H), 7.33 (s, 1H), 6.98˜7.10 (m, 5H), 6.71 (d, J=2.0 Hz, 1H).

reactant | (2-amino-5-chlorophenyl)(4-bromophenyl)methanone | 42 mmol, 13 g | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=C(C=C1)Br | C13H9BrClNO
reactant | carbonyldiimidazole | 96 mmol, 15.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ether | 30 ml | CCOCC | C4H10O
reactant | water | 20 ml | O | H2O
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
product | N-[4-chloro-2-(4-bromobenzoyl)phenyl]-1H-imidazole-1-carboxamide | ClC1=CC(=C(C=C1)NC(=O)N1C=NC=C1)C(C1=CC=C(C=C1)Br)=O | C17H11BrClN3O2
